US04824958
Methyl 3-hydroxy-2thiophenecarboxylate.
A solution of methyl thioglycolate (19.2 g, 181 mmoles) in methanol (100 mL) is added to a solution of sodium (8.0 g, 348 mmoles) in methanol (100 mL) with stirring, and cooling with an ice bath. A solution of methyl α-chloroacrylate (22.1 g, 183 mmoles) in methanol (25 mL) is then added at such a rate that the temperature does not exceed 30° C. After 1 hour at ambient temperature, the methanol is removed under reduced pressure. The residue is dissolved in water, acidified with HCl and steam distilled until the distillate is clear. The distillate is cooled and shaken, and the resulting precipitate filtered off, rinsed with water and dried to afford the product (21.3 g); mp 43°-45° C.

reactant | methyl thioglycolate | 181 mmoles, 19.2 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium | 348 mmoles, 8.0 g | [Na] | Na
reactant | methyl α-chloroacrylate | 183 mmoles, 22.1 g | ClC(C(=O)OC)=C | C4H5ClO2
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | Methyl 3-hydroxy-2thiophenecarboxylate | 21.3 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
